US04617316
A stirred mixture of 2.5 g (0.007 mole) of 2-[4-(5-chlorothien-2-yl)-3-methoxyphenyl]-1H-isoindol-1,3(2H)-dione and 0.4 g (0.007 mole) of hydrazine hydrate in 30 ml of absolute ethanol was heated at reflux for one hour. The mixture was cooled and the solvent evaporated under reduced pressure to leave a residue. The residue was subjected to column chromatography on silica gel, eluting with methylene chloride to yield 1.4 g of 4-(5-chlorothien-2-yl)-3-methoxyaniline.

reactant | 2-[4-(5-chlorothien-2-yl)-3-methoxyphenyl]-1H-isoindol-1,3(2H)-dione | 0.007 mole, 2.5 g | ClC1=CC=C(S1)C1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)OC | C19H12ClNO3S
reactant | hydrazine hydrate | 0.007 mole, 0.4 g | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(5-chlorothien-2-yl)-3-methoxyaniline | 1.4 g | ClC1=CC=C(S1)C1=C(C=C(N)C=C1)OC | C11H10ClNOS
